US06262272B1
4-Oxo-5,6-dihydro-4H-cyclopenta[b]furan-3-carboxylic acid (4-ethoxy-phenyl)-amide
Starting from 4-oxo-5,6-dihydro-4H cylopenta[b]furan-3-carboxylic acid and 4-ethoxyaniline, General Procedure B provided the title compound:

reactant | 4-oxo-5,6-dihydro-4H cylopenta[b]furan-3-carboxylic acid | O=C1CCC=2OC=C(C21)C(=O)O | C8H6O4
reactant | 4-ethoxyaniline | C(C)OC1=CC=C(N)C=C1 | C8H11NO
product | 4-Oxo-5,6-dihydro-4H-cyclopenta[b]furan-3-carboxylic acid (4-ethoxy-phenyl)-amide | C(C)OC1=CC=C(C=C1)NC(=O)C=1C2=C(OC1)CCC2=O | C16H15NO4
